2124-03-07 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -- Underwent EGD showing DU w/ bleeding vessel, 2 clips placed
   -- Extubated
   -- Hct continues to trend down, given additional unit of PRBC.  Poor
   response, but may have been too soon after transfusion.
   -- Trop continues to trend up 0.06--> 0.1--> 0.26 (peak) CK peak of
   396.  No c/o CP, EKG w/o ischemic changes.  No intervention taken.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2124-3-6**] 10:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever, low grade temp overnight
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea
   Flowsheet Data as of  [**2124-3-7**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.7
C (99.8
   HR: 82 (82 - 108) bpm
   BP: 104/57(70) {97/50(64) - 131/82(92)} mmHg
   RR: 15 (10 - 68) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78 kg (admission): 78 kg
   Height: 72 Inch
           Total In:
                                                                  4,111 mL
                                                                    463 mL
   PO:
           TF:
   IVF:
                                                                  2,092 mL
                                                                    232 mL
   Blood products:
                                                                    519 mL
                                                                    231 mL
   Total out:
                                                                  2,240 mL
                                                                    297 mL
   Urine:
                                                                  2,240 mL
                                                                    297 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,871 mL
                                                                    166 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 700 (700 - 700) mL
   Vt (Spontaneous): 880 (358 - 1,028) mL
   PS : 8 cmH2O
   RR (Set): 8
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 15
   PIP: 13 cmH2O
   SpO2: 95%
   ABG: ///24/
   Ve: 8.4 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   140 K/uL
   9.2 g/dL
   106 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.6 mEq/L
   22 mg/dL
   111 mEq/L
   139 mEq/L
   25.7 %
   12.1 K/uL
        [image002.jpg]
                             [**2124-3-6**]  04:16 AM
                             [**2124-3-6**]  06:11 AM
                             [**2124-3-6**]  11:00 AM
                             [**2124-3-6**]  03:30 PM
                             [**2124-3-6**]  05:22 PM
                             [**2124-3-6**]  08:59 PM
                             [**2124-3-7**]  03:04 AM
   WBC
   17.8
   12.1
   Hct
   26.0
   28.9
   24.9
   26.5
   24.5
   25.7
   Plt
   154
   140
   Cr
   0.7
   0.8
   TropT
   0.06
   0.10
   0.26
   0.25
   TCO2
   25
   Glucose
   108
   106
   Other labs: PT / PTT / INR:13.2/24.3/1.1, CK / CKMB /
   Troponin-T:361/10/0.25, ALT / AST:23/23, Alk Phos / T Bili:37/1.1,
   Amylase / Lipase:50/17, Albumin:2.9 g/dL, LDH:166 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:1.8 mg/dL
   Imaging: EGD:  Erythema and congestion and NG tube trauma in the whole
   stomach
   Ulcer in the distal bulb (injection, ligation)
   Otherwise normal EGD to second part of the duodenum
   Microbiology: Blood Culture, Routine-PENDING
   SEROLOGY/BLOOD HELICOBACTER PYLORI ANTIBODY TEST-PENDING
   URINE URINE CULTURE-PENDING
   Assessment and Plan
   64M transferred from OSH with syncope and GIB.
   .
   # GIB
 hx of DU, likely [**1-29**] NSAID use, s/p intubation for airway
   protection. +coffee grounds on NGT lavage per report, EGD showing DU w/
   bleeding vessel.  Epi injected and 2 clips placed.
   - maintain on PPI gtt for 72 hrs, then send home on PO
   - continued blood loss, w/ drop in HCT from 24.5 to 23.5 even after
   receiving additional unit of blood
   - transfuse for hct < 28 given cad -> will tx 2nd U PRBC for hct 26.
   - maintain 3 large bore PIVs.
   - serial HCT q6hrs now.
   - NPO
   - GI made aware, evaluated this morning, will follow Hct throughout the
   day and consider re-scoping
   .
   # pulmonary
 was intubated for airway protection, no evidence of
   hypoxia or hypercarbia, pt now extubated and breathing comfortably
   overnight w/ good O2 sats.
   .
   # syncope - circumstances of "syncope" unclear thus etiology unclear,
   likely some contribution from GIB w/ vasovagal episode
   - r/o cardiac causes as below.
   - no evidence of intracranial process on CT HEAD.
   - CSPINE unremarkable, c-spine cleared
   .
   # cardiac -
   ## ischemia: h/o cad, s/p stenting [**8-/2121**] with drug eluting stent,
   though currently outside of critical window for remaining on
   anticoagulation.
   - restart aspirin, plavix after EGD, last dose 3/9. cleared by patients
   OP cardiologist.  Will restart ASA upon d/c and have patient follow up
   w/ OP cardiologist to restart plavix.
   - patient w/ bump in trop to 0.26 (peak).  No c/o CP, no evidence of
   ischemia on EKG.  Heparinization contraindicated in this pt w/ UGIB.
   CE now trending down.  [**Month (only) 60**] be from demand ischemia, and have now
   suspicion of coronary event.  Will check TTE.
   .
   ## rythym: nsr.
   - telemetry overnight to eval for arrythmia given h/o MI.
   .
   ## pump: clinically euvolemic.
   - consider repeat TTE in AM given syncope.
   .
   ## htn: hold antihypertensives given GIB.
   .
   .
   # leukocytosis - likely [**1-29**] GIB, no fever, no evidence of infiltrate on
   CXR.  UA with mod bact, otherwise unremarkable.  Down from 18 to 12.
   - f/u diff - left shift, no bands.
   - f/u UCx,
   - f/u CXR official read.
   - trend in AM.
   .
   .
   # shoulder pain - switch to prn oxycodone for shoulder pain
   .
   # depression - restart prozac after egd.
   ICU Care
   Nutrition:
   Comments: NPP
   Glycemic Control:
   Lines:
   20 Gauge - [**2124-3-6**] 05:04 AM
   18 Gauge - [**2124-3-6**] 05:04 AM
   16 Gauge - [**2124-3-6**] 05:05 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI gtt
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:

2124-03-07 09:08:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with Dr.
   [**Last Name (STitle) 1256**]
s note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Yesterday's events noted:
 ENDOSCOPY - At [**2124-3-6**] 10:27 AM - ulcer in duodenum, visible
   vessel, clipped x 2, epi injection
 INVASIVE VENTILATION - STOP [**2124-3-6**] 02:13 PM - extubated
   successfully
   Hct dropped despite transfusions to 23.5.
   Trop increased to 0.26, now trending down. Plavix can be d/c'd per pt's
   cardiologist, ASA not restarted.
   ECG - no ischemic changes.
   Low grade temp 101
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2124-3-6**] 10:40 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea
   Flowsheet Data as of  [**2124-3-7**] 09:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.2
C (98.9
   HR: 78 (78 - 108) bpm
   BP: 102/56(67) {97/50(64) - 123/81(86)} mmHg
   RR: 14 (11 - 68) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78 kg (admission): 78 kg
   Height: 72 Inch
           Total In:
                                                                  4,111 mL
                                                                    660 mL
   PO:
           TF:
   IVF:
                                                                  2,092 mL
                                                                    311 mL
   Blood products:
                                                                    519 mL
                                                                    350 mL
   Total out:
                                                                  2,240 mL
                                                                    297 mL
   Urine:
                                                                  2,240 mL
                                                                    297 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,871 mL
                                                                    363 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 700 (700 - 700) mL
   Vt (Spontaneous): 880 (358 - 880) mL
   PS : 8 cmH2O
   RR (Set): 8
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 15
   PIP: 13 cmH2O
   SpO2: 97%
   ABG: ///24/
   Ve: 8.4 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: No(t) Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   140 K/uL
   106 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.6 mEq/L
   22 mg/dL
   111 mEq/L
   139 mEq/L
   23.3 %
   12.1 K/uL
        [image002.jpg]
                             [**2124-3-6**]  04:16 AM
                             [**2124-3-6**]  06:11 AM
                             [**2124-3-6**]  11:00 AM
                             [**2124-3-6**]  03:30 PM
                             [**2124-3-6**]  05:22 PM
                             [**2124-3-6**]  08:59 PM
                             [**2124-3-7**]  03:04 AM
                             [**2124-3-7**]  06:08 AM
   WBC
   17.8
   12.1
   Hct
   26.0
   28.9
   24.9
   26.5
   24.5
   25.7
   23.3
   Plt
   154
   140
   Cr
   0.7
   0.8
   TropT
   0.06
   0.10
   0.26
   0.25
   TCO2
   25
   Glucose
   108
   106
   Other labs: PT / PTT / INR:13.2/24.3/1.1, CK / CKMB /
   Troponin-T:361/10/0.25, ALT / AST:23/23, Alk Phos / T Bili:37/1.1,
   Amylase / Lipase:50/17, Albumin:2.9 g/dL, LDH:166 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   Assessment and Plan
   64M transferred from OSH with syncope and GIB
   1. Active GI bleed d/t duod ulcer s/p clips x2, epi injection, still
   dropping Hct
 continue with IV PPI drip, serial Hct, transfuse to keep
   hct 28-30
   2. Resp failure - extubated successfully, no further resp issues.
   3. Question of syncope
 r/o MI, possible vagal event in setting of GI
   bleed. CT head unremarkable, no bleed. Will consider TTE.
   4.  HTN: hold antihypertensives given GIB.
   5. Leukocytosis
 improved, no signs of active infection.
   6. CAD - on discharge, will need to restart ASA. Okay by his outside
   cardiologist not to give plavix.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2124-3-6**] 05:04 AM
   18 Gauge - [**2124-3-6**] 05:04 AM
   16 Gauge - [**2124-3-6**] 05:05 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2124-03-08 06:38:00 Physician Resident Progress Note
Chief Complaint: UGIB
   24 Hour Events:
    transfused 2 units pRBCs, HCT stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Flowsheet Data as of  [**2124-3-8**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.9
C (98.4
   HR: 76 (67 - 83) bpm
   BP: 120/70(83) {101/53(62) - 126/70(83)} mmHg
   RR: 36 (9 - 36) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78 kg (admission): 78 kg
   Height: 72 Inch
             Total In:
                                                                  2,309 mL
                                                                    157 mL
   PO:
             TF:
   IVF:
                                                                  1,328 mL
                                                                    157 mL
   Blood products:
                                                                    981 mL
   Total out:
                                                                  1,077 mL
                                                                    650 mL
   Urine:
                                                                  1,077 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,232 mL
                                                                   -493 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): PPT, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   149 K/uL
   11.1 g/dL
   106 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.6 mEq/L
   22 mg/dL
   111 mEq/L
   139 mEq/L
   31.3 %
   9.7 K/uL
        [image002.jpg]
                             [**2124-3-6**]  06:11 AM
                             [**2124-3-6**]  11:00 AM
                             [**2124-3-6**]  03:30 PM
                             [**2124-3-6**]  05:22 PM
                             [**2124-3-6**]  08:59 PM
                             [**2124-3-7**]  03:04 AM
                             [**2124-3-7**]  06:08 AM
                             [**2124-3-7**]  05:22 PM
                             [**2124-3-7**]  11:03 PM
                             [**2124-3-8**]  05:09 AM
   WBC
   12.1
   9.7
   Hct
   28.9
   24.9
   26.5
   24.5
   25.7
   23.3
   29.9
   30.4
   31.3
   Plt
   140
   149
   Cr
   0.8
   TropT
   0.10
   0.26
   0.25
   TCO2
   25
   Glucose
   106
   Other labs: PT / PTT / INR:13.2/24.3/1.1, CK / CKMB /
   Troponin-T:361/10/0.25, ALT / AST:23/23, Alk Phos / T Bili:37/1.1,
   Amylase / Lipase:50/17, Albumin:2.9 g/dL, LDH:166 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:1.8 mg/dL
   Microbiology: Blood Culture, Routine-PENDING
   HELICOBACTER PYLORI ANTIBODY TEST-PENDING
   URINE URINE CULTURE-No Growth
   Assessment and Plan
   64M transferred from OSH with syncope and GIB, bleeding DU seen on EGD
   .
   # GIB
 hx of DU, likely [**1-29**] NSAID use, +coffee grounds on NGT lavage
   per report, EGD showing DU w/ bleeding vessel.  Epi injected and 2
   clips placed.  Had continued bleeding s/p EGD requiring 3U PRBC.  Hct
   now stable.
   - maintain on PPI gtt for 72 hrs (48/72), then send home on PO
   - continued blood loss, w/ drop in HCT from 24.5 to 23.5 even after
   receiving additional unit of blood.  Hct has held stable for 12hrs at
   30.
   - transfuse for hct < 28 given cad -> will tx 2nd U PRBC for hct 26.
   - serial HCT q12hrs now.
   - NPO, start on clears and advance as tolerated
   # pulmonary
 was intubated for airway protection, no evidence of
   hypoxia or hypercarbia, pt now extubated and breathing comfortably
   overnight w/ good O2 sats.
   # syncope - circumstances of "syncope" likely some contribution from
   GIB w/ vasovagal episode
   - r/o cardiac causes as below.
   - no evidence of intracranial process on CT HEAD.
   - CSPINE unremarkable, c-spine cleared
   .
   # cardiac -
   ## ischemia: h/o cad, s/p stenting [**8-/2121**] with drug eluting stent,
   though currently outside of critical window for remaining on
   anticoagulation.
   - held aspirin, plavix after EGD since [**3-5**] in setting of GIB. cleared
   by patients OP cardiologist.  Will restart ASA upon d/c and have
   patient follow up w/ OP cardiologist to restart plavix.
   - patient w/ bump in trop to 0.26 (peak).  No c/o CP, no evidence of
   ischemia on EKG.  Heparinization contraindicated in this pt w/ UGIB.
   CE now trending down.  [**Month (only) 60**] be from demand ischemia in patient w/ known
   CAD, and have low suspicion of coronary event.
   - unclear why patient not taking BB given hx of CAD.
   -will have patient f/u w/ OP cardiologist upon d/c to restart plavix.
   Given enzyme leak will likely require ETT.
   - patient was recently started on celebrex for rotator cuff injury.
   Currently holding NSAIDs in setting of GIB.  Given hx of CAD,
   medication should be avoided at d/c.
   .
   ## rythym: nsr.
   - no events on telemetry, can be d/c'd when goes to floor.
   ## pump: clinically euvolemic.
   - will defer TTE as syncopal episode likely vasovagal/hypotensive in
   setting of GIB.
   .
   # leukocytosis - likely [**1-29**] GIB, no fever, no evidence of infiltrate on
   CXR.  UCx negative.  Down from 18 to 9.
   - f/u diff - left shift, no bands.
   - f/u BCx,
   .
   # shoulder pain - switch to prn oxycodone for shoulder pain.  Currently
   holding NSAIDs in setting of GIB.  Given hx of CAD, so celebrex should
   be avoided at d/c.
   # depression - restart prozac after egd.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2124-3-7**] 11:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI gtt
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor

2124-03-08 14:44:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with Dr.
   [**Last Name (STitle) 1256**]
s note above, including assessment and plan.
   24 Hour Events:
   Transfused 2 units of PRBC.
   Complains of right frontal headache, relieved with tylenol. No new sx.
   Denies SOB, c/p. No BRBPR.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   Review of systems is unchanged from admission except as noted - right
   frontal headache
   Review of systems:
   Flowsheet Data as of  [**2124-3-8**] 02:42 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.8
C (98.2
   HR: 77 (67 - 85) bpm
   BP: 114/64(76) {105/55(67) - 126/75(85)} mmHg
   RR: 14 (9 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78 kg (admission): 78 kg
   Height: 72 Inch
             Total In:
                                                                  2,309 mL
                                                                    365 mL
   PO:
             TF:
   IVF:
                                                                  1,328 mL
                                                                    365 mL
   Blood products:
                                                                    981 mL
   Total out:
                                                                  1,077 mL
                                                                    650 mL
   Urine:
                                                                  1,077 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,232 mL
                                                                   -285 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : rare crackles left
   base, otherwise clear)
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x 3,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.1 g/dL
   149 K/uL
   89 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.8 mEq/L
   15 mg/dL
   110 mEq/L
   140 mEq/L
   31.3 %
   9.7 K/uL
        [image002.jpg]
                             [**2124-3-6**]  06:11 AM
                             [**2124-3-6**]  11:00 AM
                             [**2124-3-6**]  03:30 PM
                             [**2124-3-6**]  05:22 PM
                             [**2124-3-6**]  08:59 PM
                             [**2124-3-7**]  03:04 AM
                             [**2124-3-7**]  06:08 AM
                             [**2124-3-7**]  05:22 PM
                             [**2124-3-7**]  11:03 PM
                             [**2124-3-8**]  05:09 AM
   WBC
   12.1
   9.7
   Hct
   28.9
   24.9
   26.5
   24.5
   25.7
   23.3
   29.9
   30.4
   31.3
   Plt
   140
   149
   Cr
   0.8
   0.8
   TropT
   0.10
   0.26
   0.25
   TCO2
   25
   Glucose
   106
   89
   Other labs: PT / PTT / INR:11.5/23.7/1.0, CK / CKMB /
   Troponin-T:361/10/0.25, ALT / AST:23/23, Alk Phos / T Bili:37/1.1,
   Amylase / Lipase:50/17, Albumin:2.9 g/dL, LDH:166 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   64M transferred from OSH with syncope and GIB
   1. Active upper GI bleed with ongoing active bleeding: duod ulcer s/p
   clips x2, epi injection, Hct now stable
 continue with IV PPI drip x
   72 hrs total than [**Hospital1 **], continue to follow Hct [**Hospital1 **] for now. No
   indication for transfusion.
   2. Resp failure - no further resp issues.
   3. Question of syncope
 no evidence of acute coronary syndrome,
   seizure or stroke. Probable vagal event in setting of GI bleed. CT head
   unremarkable, no bleed.
   4.  HTN: would resume antihypertensives.
   5. Leukocytosis
 improved, likely d/t stress of GI bleed.
   6. CAD - on discharge, will need to restart ASA. Okay by his outside
   cardiologist not to give plavix.
   ICU Care
   Nutrition: advancing to clear liquids
   Glycemic Control:
   20 Gauge - [**2124-3-7**] 11:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes
   Patient is critically ill